US05616579
N-[3-(4-Piperidinomethyl-2-pyridyloxy)propyl]-pyrazole-4-carboxamide
A solution of 1.0 g of 3-(4-piperidinomethyl-2-pyridyloxy)propylamine and 0.45 g of 4-pyrazolecarboxylic acid dissolved in 15 ml of dimethylformamide was stirred for 5 minutes, whilst ice-cooling, after which 734 mg of diethyl cyanophosphonate and 0.68 ml of triethylamine were added to the resulting mixture. The mixture was then stirred at room temperature for 3 hours, after which it was diluted with water, and the aqueous mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium hydrogencarbonate and then with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel, using a 1:9 by volume mixture of methanol and chloroform as the eluent, to give 1.2 g (yield 85%) of the title compound as a white powder, melting at 117°-119° C.

reactant | 3-(4-piperidinomethyl-2-pyridyloxy)propylamine | 1.0 g | N1(CCCCC1)CC1=CC(=NC=C1)OCCCN | C14H23N3O
reactant | 4-pyrazolecarboxylic acid | 0.45 g | N1N=CC(=C1)C(=O)O | C4H4N2O2
reactant | diethyl cyanophosphonate | 734 mg | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 0.68 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[3-(4-Piperidinomethyl-2-pyridyloxy)propyl]-pyrazole-4-carboxamide | 1.2 g, yield 85% | N1(CCCCC1)CC1=CC(=NC=C1)OCCCNC(=O)C=1C=NNC1 | C18H25N5O2
